US09102664B2
Preparation of amorphous 4-(4-(4-(4-(((3R,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluorophenyl)tetrahydrofuran-3-yl)methoxy)phenyl)piperazin-1-yl)phenyl)-1-((2S,3R)-2-(benzyloxy)pentan-3-yl)-1H-1,2,4-triazol-5(4H)-one (Formula-21)
A solution of sodium hydroxide (9.2 g) and water (10 ml) was cooled to 25-35° C. and added dimethyl sulfoxide (350 ml), followed by 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl)piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one (50 gms) compound of formula-20 at 25-35° C. The reaction mixture was stirred for 45 minutes at the same temperature. ((3S,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluoro phenyl)tetrahydrofuran-3-yl)methyl 4-methylbenzenesulfonate (50 μms) compound of formula-10 was added to the above reaction mixture and heated to 45-60° C. The reaction mixture was stirred for 6 hours at the same temperature. After completion of the reaction, the reaction mixture was quenched with water and neutralized with hydrochloric acid. The reaction mixture was stirred for 1 hour at 25-35° C. Filtered the solid and washed with water. Dried the solid to get the title compound. Yield: 79 g

reactant | sodium hydroxide | 9.2 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | 1-((2S,3S)-2-(benzyloxy)pentan-3-yl)-4-(4-(4-(4-hydroxyphenyl)piperazin-1-yl)phenyl)-1H-1,2,4-triazol-5(4H)-one | 50 gms | C(C1=CC=CC=C1)O[C@@H](C)[C@H](CC)N1N=CN(C1=O)C1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)O | C30H35N5O3
reactant | ((3S,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluoro phenyl)tetrahydrofuran-3-yl)methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1CO[C@](C1)(C1=C(C=C(C=C1)F)F)CN1N=CN=C1 | C21H21F2N3O4S
solvent | dimethyl sulfoxide | 350 ml | CS(=O)C | C2H6OS
product | 4-(4-(4-(4-(((3R,5R)-5-((1H-1,2,4-triazol-1-yl)methyl)-5-(2,4-difluorophenyl)tetrahydrofuran-3-yl)methoxy)phenyl)piperazin-1-yl)phenyl)-1-((2S,3R)-2-(benzyloxy)pentan-3-yl)-1H-1,2,4-triazol-5(4H)-one | N1(N=CN=C1)C[C@@]1(C[C@@H](CO1)COC1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C=NN(C1=O)[C@@H]([C@H](C)OCC1=CC=CC=C1)CC)C1=C(C=C(C=C1)F)F | C44H48F2N8O4
